US04937251
2-[2-[(6-Bromohexyl)oxy]ethyl]pyridine
A mixture of 2-pyridineethanol (5 g), 1,6-dibromohexane (20 ml), 50% (w/v) sodium hydroxide (20 ml) and TAB (500 mg) was stirred at room temperature for 6 h. Water (100 ml) was added and the mixture was extracted with ether (2×100 ml). The organic extracts were washed with water and brine, dried and concentrated to an oil which was purified by FCC eluting with hexane→hexane-ether (1:1) to give the title compound as a colourless oil (6.6 g), t.l.c. (hexane-ether 1:1) Rf 0.19.

reactant | 2-pyridineethanol | 5 g | N1=C(C=CC=C1)CCO | C7H9NO
reactant | 1,6-dibromohexane | 20 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | Water | 100 ml | O | H2O
product | 2-[2-[(6-Bromohexyl)oxy]ethyl]pyridine | 6.6 g | BrCCCCCCOCCC1=NC=CC=C1 | C13H20BrNO
